US05552299
glucose 1.0%
The BIBB 10 medium was adjusted to pH 7.0 with 10% sodium hydroxide solution before sterilization. The culture medium was shaken on a rotary shaker at 260 rpm for 24 hours at 28° C., then 3 ml of same were inoculated into 100 ml of fresh BIBB 10 medium supplemented with 0.5% of glycine before inoculation. These cultures were cultivated for 18 hours under the above cultural environment, and after checking the cells were collected by centrifugation (3500 rpm, 10 min.). The mycelium derived from 100 ml of the culture broth was suspended in 4 ml of PH mixture (pH 7.0) containing the following components:

reactant | sodium hydroxide | [OH-].[Na+]
reactant | glycine | NCC(=O)O | C2H5NO2
product | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
